US07795247B2
Step 5: 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid
The crude methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate was dissolved in THF/MeOH (1:1) and to that solution an excess of NaOH (1N) was added. The solution was stirred at RT overnight. The solvent was evaporated in vacuo. The crude was then purified by automated RP-MS-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×100 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (20%).

reactant | methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CCN2CCOCC2)C=CC=C1)C(=O)OC | C31H39N3O3
solvent | THF MeOH | C1CCOC1.CO
solvent | NaOH | 1N | [OH-].[Na+]
product | 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid | 20% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CCN2CCOCC2)C=CC=C1)C(=O)O | C30H37N3O3
